US07964751B2
Synthesis of aminophenylacetic acid octadec-(Z)-9-enyl ester HCl
To a solution of N-Boc L-phenylglycine (2.51 g, 10 mmol) in acetonitrile (50 ml), was added portionwise 1,1′-carbonyldiimidazole (3.24 g, 20 mmol). The solution was stirred at room temperature for 1 h, oleyl alcohol (3.15 ml, 2.68 g, 10 mmol) was added, and the reaction mixture further stirred for 2 h at room temperature. The solvent was evaporated, the residue was dissolved in ethyl acetate (150 ml), washed successively with 5% NaHCO3, 5% citric acid and water, dried on MgSO4 and evaporated to dryness. The residue was dissolved in 1% HCl in ethyl acetate (100 ml), and the solution set aside for 6 h at room temperature, and evaporated to dryness. The residue thus obtained was crystallized from ether/n-hexane to give 1.6 g 3.65 mmol, 36.5% yield) of an off-white solid, mp 101-103° C. Racemic mixture was attained.

reactant | N-Boc L-phenylglycine | 10 mmol, 2.51 g | CC(C)(C)OC(=O)N[C@H](C1=CC=CC=C1)C(=O)O | C13H17NO4
reactant | 1,1′-carbonyldiimidazole | 20 mmol, 3.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | oleyl alcohol | 10 mmol, 3.15 ml, 2.68 g | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | aminophenylacetic acid | 36.5% yield | NC(C(=O)O)C1=CC=CC=C1 | C8H9NO2
